US06750231B2
1-Hexyl-3,4-dimethyl-4-(3-(1H-pyrazol-3-yl)phenyl)piperidine
To a solution of 4-(3-(3-dimethylaminopropenoyl)phenyl)-1-hexyl-3,4-dimethylpiperidine (Preparation 38, 117 mg, 0.32 mmol) in a mixture of methanol (5.0 mL) and water (1.0 mL) was added hydrazine hydrate (0.1 mL, 3.2 mmol). The mixture was heated at reflux for 2 h and then cooled to room temperature. The mixture was concentrated in vacuo and saturated aqueous sodium hydrogencarbonate (10 mL) was added. The aqueous layer was extracted with dichloromethane (3×10 mL), the combined organic layers were dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with ethyl acetate:hexane:0.88 ammonia (90:10:1). The title compound was isolated as clear oil (85 mg, 79%).

reactant | 4-(3-(3-dimethylaminopropenoyl)phenyl)-1-hexyl-3,4-dimethylpiperidine | 0.32 mmol, 117 mg | CN(C=CC(=O)C=1C=C(C=CC1)C1(C(CN(CC1)CCCCCC)C)C)C | C24H38N2O
reactant | hydrazine hydrate | 3.2 mmol, 0.1 mL | O.NN
solvent | methanol | 5.0 mL | CO | CH4O
solvent | water | 1.0 mL | O | H2O
product | 1-Hexyl-3,4-dimethyl-4-(3-(1H-pyrazol-3-yl)phenyl)piperidine | C(CCCCC)N1CC(C(CC1)(C1=CC(=CC=C1)C1=NNC=C1)C)C | C22H33N3
